US08183380B2
Step A: 9-Isopropyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime:
A mixture of 9-isopropyl-9-aza-bicyclo[3.3.1]nonan-3-one (CAS no: 56258-85-6) (5.0 g, 28 mmol) in ethanol (125 mL) and pyridine (3.3 mL, 41 mmol) with hydroxylamine hydrochloride (2.03 g, 29 mmol) was refluxed for 6 h. Cooled to 23° C., the precipitate was filtered off, washed with diethyl ether leaving a solid, which was partitioned between dichloromethane and sodium carbonate solution, the organic layers dried over Na2SO4, filtered and the solvents evaporated to give the title compound as a white solid. (4.43 g, 82%); MS: m/e=197.1 (M+H−).

reactant | 9-isopropyl-9-aza-bicyclo[3.3.1]nonan-3-one | C(C)(C)N1C2CC(CC1CCC2)=O | C11H19NO
reactant | pyridine | 41 mmol, 3.3 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 29 mmol, 2.03 g | Cl.NO
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 9-Isopropyl-9-aza-bicyclo[3.3.1]nonan-3-one oxime | C(C)(C)N1C2CC(CC1CCC2)=NO | C11H20N2O
